US07459448B2
2-(3,4-Dimethoxy-phenylamino)-5,7-dihydro-1,3,7,8-tetraaza-dibenzo[a,c]cyclohepten-6-one (I-1)
In a manner similar to method H (NaHCO3 used in place of K2CO3) (Z)-6-dimethylaminomethylene-6,7-dihydro-9H-pyrido[2,3-b]azepine-5,8-dione (v-h) and 1-(3,4-dimethoxyphenyl)guanidine were converted to I-1 (85%): MS Rt═1.3 min. m/z 364 (M+H).

reactant | (Z)-6-dimethylaminomethylene-6,7-dihydro-9H-pyrido[2,3-b]azepine-5,8-dione | CN(C)\C=C\1/C(C2=C(NC(C1)=O)N=CC=C2)=O | C12H13N3O2
reactant | 1-(3,4-dimethoxyphenyl)guanidine | COC=1C=C(C=CC1OC)NC(=N)N | C9H13N3O2
product | 2-(3,4-Dimethoxy-phenylamino)-5,7-dihydro-1,3,7,8-tetraaza-dibenzo[a,c]cyclohepten-6-one | COC=1C=C(C=CC1OC)NC1=NC2=C(CC(NC3=C2C=CC=N3)=O)C=N1 | C19H17N5O3
